US08084448B2
A. 5-[2-benzyloxy-4-((E)-hex-1-enyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (200 mg, 0.45 mmol), trans-1-hexen-1-ylboronic acid (77 mg, 0.676 mmol), resin-bound PPh3Pd (692 mg, loading 0.13 mmol/g) and aqueous Na2CO3 (0.9 mL of a 2M solution) in DME (3 mL) is placed in a microwave vial and heated at 110° C. for 30 min. The mixture is filtered, diluted with EtOAc and washed with 1N HCl. The organic phase is dried over magnesium sulfate and the solvent removed under reduced pressure. The residue is purified by preparative HPLC to give the title compound.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.45 mmol, 200 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | trans-1-hexen-1-ylboronic acid | 0.676 mmol, 77 mg | C(=C\CCCC)/B(O)O | C6H13BO2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
product | 5-[2-benzyloxy-4-((E)-hex-1-enyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\CCCC)N1CC(NS1(=O)=O)=O | C21H24N2O4S
